US04859692
4-[6-(Cyclopentyloxycarbonyl)aminobenzimidazol-1-ylmethyl]-3-methoxybenzoic acid
A stirred solution of methyl 4-[6-(cyclopentyloxycarbonyl)aminobenzimidazol-1-ylmethyl]-3methoxybenzoate in 1:1 v/v tetrahydrofuran:methanol (7 ml.) was treated with water (1.4 ml.) and lithium hydroxide monohydrate (0.3 g.). Stirring was continued at ambient temperature for 4 hours. The solvent was then evaporated. The resultant residue was dissolved in water. The solution obtained was acidified with 10% v/v hydrochloric acid. The resultant precipitate was collected by filtration to give the title compound (0.43 g., 78%). An analytical sample was obtained as a white powder by recrystallization from aqueous ethanol m.p. 241°-242° C. Analysis calculated for:

reactant | methyl 4-[6-(cyclopentyloxycarbonyl)aminobenzimidazol-1-ylmethyl]-3methoxybenzoate | C1(CCCC1)OC(=O)NC=1C=CC2=C(N(C=N2)CC2=C(C=C(C(=O)OC)C=C2)OC)C1 | C23H25N3O5
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 0.3 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1.4 ml | O | H2O
solvent | methanol | 7 ml | CO | CH4O
product | 4-[6-(Cyclopentyloxycarbonyl)aminobenzimidazol-1-ylmethyl]-3-methoxybenzoic acid | 0.43 g, 78% | C1(CCCC1)OC(=O)NC=1C=CC2=C(N(C=N2)CC2=C(C=C(C(=O)O)C=C2)OC)C1 | C22H23N3O5
